US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(2-cycloocten-1-yl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Sodium bicarbonate (606 mg) and 3-bromocyclooctene (1.36 g) were added to a solution of 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1 g) in N,N-dimethylformamide (20 ml), the mixture was stirred overnight at 80° C. After the reaction mixture was allowed to cool, ice-water was added thereto, extracted with ethyl acetate, the organic layer was washed with saturated brine. The resultant mixture was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and diisopropyl ether was added to the residue for crystallization, and collected by filtration, to thereby obtain 615 mg of the title compound as the mixture of diastereomer compounds.

reactant | Sodium bicarbonate | 606 mg | C([O-])(O)=O.[Na+]
reactant | 3-bromocyclooctene | 1.36 g | BrC1C=CCCCCC1 | C8H13Br
reactant | 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1 g | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-oxo-3-tert-butoxycarbonylamino-5-(2-cycloocten-1-yl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 615 mg | O=C1C(CN(C2=C(N1)C=CC=C2)C2C=CCCCCC2)NC(=O)OC(C)(C)C | C22H31N3O3
